US06355633B1
2-[(E)-2-[2-(Isopropoxysulfonyl)-4-[[4-(methylsulfonyl)benzoyl]amino]phenyl]ethenyl]-5-[[4-methoxy-3-(4-morpholinylsulfonyl)benzoyl]amino]benzenesulfonic acid, (1-Methylethyl) Ester
From 4-methoxy-3-(morpholine-4-sulfonyl)-benzoic acid, Example 1a and 5-[[4-(methylsulfonyl)benzoyl]amino]-2-[(E)-2-[4-amino-2-sulfophenyl]ethenyl]benzenesulfonate, bis(1-methylethyl) ester, Example 28b (52%): MS (−ESI): [M−H]− 918.

reactant | 4-methoxy-3-(morpholine-4-sulfonyl)-benzoic acid | COC1=C(C=C(C(=O)O)C=C1)S(=O)(=O)N1CCOCC1 | C12H15NO6S
reactant | 5-[[4-(methylsulfonyl)benzoyl]amino]-2-[(E)-2-[4-amino-2-sulfophenyl]ethenyl]benzenesulfonate | CS(=O)(=O)C1=CC=C(C(=O)NC=2C=CC(=C(C2)S(=O)(=O)[O-])\C=C\C2=C(C=C(C=C2)N)S(=O)(=O)O)C=C1
product | 2-[(E)-2-[2-(Isopropoxysulfonyl)-4-[[4-(methylsulfonyl)benzoyl]amino]phenyl]ethenyl]-5-[[4-methoxy-3-(4-morpholinylsulfonyl)benzoyl]amino]benzenesulfonic acid, (1-Methylethyl) Ester | C(C)(C)OS(=O)(=O)C1=C(C=CC(=C1)NC(C1=CC=C(C=C1)S(=O)(=O)C)=O)/C=C/C1=C(C=C(C=C1)NC(C1=CC(=C(C=C1)OC)S(=O)(=O)N1CCOCC1)=O)S(=O)(=O)OC(C)C | C40H45N3O14S4
